US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
4N HCl-dioxane solution (5 ml) was added to 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (540 mg) in ethanol (5 ml), and the mixture was stirred at 50° C. for 30 minutes. The reaction mixture was concentrated under reduced pressure, and saturated aqueous sodium bicarbonate solution was added to the residue, followed by extraction with methylene chloride. The extract was dried over anhydrous sodium sulfate, to thereby obtain 411 mg of the titled compound.

reactant | HCl dioxane | 4N, 5 ml | Cl.O1CCOCC1
reactant | 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 540 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C)=O)C | C28H35N3O5
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 411 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)N)=O)C | C23H27N3O3
